US08802864B2
a) 2-[2-(4-[4-(1-benzofuran-5-yl)phenyl]-3-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-5-oxo-4,5-dihydro-1H-1,2,4-triazol-1-yl)ethyl]-1H-isoindole-1,3(2H)-dione
To a solution of 4-[4-(1-benzofuran-5-yl)phenyl]-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one (300 mg, 0.699 mmol) in N,N-dimethylformamide (3 mL) in a 5 mL microwaveable vial was added potassium carbonate (300 mg, 2.1 mmol, 3 eq) and N-(2-chloroethyl)phthalimide (300 mg, 1.43 mmol, 2 eq). The vial was capped and purged with nitrogen gas, and the reaction mixture was stirred for 16 h at 90° C. Analysis by LC/MS displayed the reaction had progressed to 20% completion. The reaction was irradiated in the microwave at 185° C. for 60 min. Analysis by LC/MS displayed the reaction was complete. The reaction mixture was poured into a mixture of dichloromethane and water. The organic layer was separated. The aqueous layer was washed with dichloromethane. The organic extracts were combined and washed 3× with a dilute brine solution. The organic layer was separated, dried over sodium sulfate, filtered, and concentrated in vacuo. The crude product was purified by reverse phase HPLC (LUNA C-18: 30×50 mm column; 30-60% acetonitrile w/0.1% TFA/water w/0.1% TFA). The product fractions were neutralized with the addition of saturated aq sodium bicarbonate, combined, and extracted with dichloromethane. The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo to afford the intermediate compound (142 mg, 33%). MS(ES)+ m/e 602.0 [M+H]+.

reactant | 4-[4-(1-benzofuran-5-yl)phenyl]-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.699 mmol, 300 mg | O1C=CC2=C1C=CC(=C2)C2=CC=C(C=C2)N2C(NN=C2C[C@H]2CN(CC2)C(=O)C2CC2)=O | C25H24N4O3
reactant | potassium carbonate | 2.1 mmol, 300 mg, 3 eq | C([O-])([O-])=O.[K+].[K+]
reactant | N-(2-chloroethyl)phthalimide | 1.43 mmol, 300 mg, 2 eq | ClCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8ClNO2
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 2-[2-(4-[4-(1-benzofuran-5-yl)phenyl]-3-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-5-oxo-4,5-dihydro-1H-1,2,4-triazol-1-yl)ethyl]-1H-isoindole-1,3(2H)-dione | 142 mg, 33% | O1C=CC2=C1C=CC(=C2)C2=CC=C(C=C2)N2C(=NN(C2=O)CCN2C(C1=CC=CC=C1C2=O)=O)C[C@H]2CN(CC2)C(=O)C2CC2 | C35H31N5O5
